US08937073B2
3b) tert-butyl[3-fluoro-5-(4-methoxy-2-trifluoromethyl-phenylamino)-pyridin-2-ylmethyl]-carbamate
Analogously to Example 1a), tert-butyl (5-bromo-3-fluoro-pyridin-2-ylmethyl)-carbamate (0.55 mmol) was reacted with 4-methoxy-2-trifluoromethyl-aniline. The crude product was purified by chromatography (column: Varian Pursuit XRS C18; 10 μM; 41.4×250 mm, gradient: acetonitrile/water/CF3COOH: 10/90/0.1→100/0/0.1). The product was thus obtained in a yield of 26% of theory.

reactant | tert-butyl (5-bromo-3-fluoro-pyridin-2-ylmethyl)-carbamate | 0.55 mmol | BrC=1C=C(C(=NC1)CNC(OC(C)(C)C)=O)F | C11H14BrFN2O2
reactant | 4-methoxy-2-trifluoromethyl-aniline | COC1=CC(=C(N)C=C1)C(F)(F)F | C8H8F3NO
product | tert-butyl[3-fluoro-5-(4-methoxy-2-trifluoromethyl-phenylamino)-pyridin-2-ylmethyl]-carbamate | yield of 26% | C(C)(C)(C)OC(NCC1=NC=C(C=C1F)NC1=C(C=C(C=C1)OC)C(F)(F)F)=O | C19H21F4N3O3
